US05240919
N-[2-(3-METHYL-6-BENZOTHIAZOLINONYL)ETHYL]ACETAMIDE
By replacing 2-(3-methyl-6-benzoxazolinonyl)-ethylamine hydrochloride in Example 61 by 2-(3-methyl-6-benzothiazolinonyl)ethylamine hydrochloride, described in French Patent Application 90/11,866, the product of the title is obtained.

reactant | 2-(3-methyl-6-benzoxazolinonyl)-ethylamine hydrochloride | Cl.CN1C(OC=2C1=CCC(C2)=O)CCN
reactant | 2-(3-methyl-6-benzothiazolinonyl)ethylamine hydrochloride | Cl.CN1C(SC=2C1=CCC(C2)=O)CCN
product | N-[2-(3-METHYL-6-BENZOTHIAZOLINONYL)ETHYL]ACETAMIDE | CN1C(SC=2C1=CCC(C2)=O)CCNC(C)=O | C12H16N2O2S
